US05965490
12. Preparation of 3-Amino-8-chloro-5-methylthio[1,2,4]triazolo[4,3-c]pyrimidine Hydrobromide
A solution of 40 mL (120 mmol) of 3 molar cyanogen bromide in dichloromethane was combined with 19.0 g (100 mmol) of 5-chloro-4-hydrazino-2-methylthiopyrimidine and 200 mL of dry isopropyl alcohol at ambient temperature with stirring. The resulting mixture was stirred for 18 hours and then diluted with 500 mL of diethyl ether. The solids that formed were recovered by filtration and dried to obtain the theoretical amount of the title compound as a yellow solid melting above 250° C.

reactant | cyanogen bromide | 120 mmol, 3 molar, 40 mL | N#CBr | CBrN
reactant | 5-chloro-4-hydrazino-2-methylthiopyrimidine | 100 mmol, 19.0 g | ClC=1C(=NC(=NC1)SC)NN | C5H7ClN4S
reactant | isopropyl alcohol | 200 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 3-Amino-8-chloro-5-methylthio[1,2,4]triazolo[4,3-c]pyrimidine Hydrobromide | Br.NC1=NN=C2N1C(=NC=C2Cl)SC | InChI=1S/C6H6ClN5S.BrH/c1-13-6-9-2-3(7)4-10-11-5(8)12(4)6;/h2H,1H3,(H2,8,11);1H
